US08076359B2
Step 4: (3R,4S)-N-Cyclopropyl-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}-N-[3-(2-methoxyethoxy)-5-(3-methoxypropyl)benzyl]piperidine-3-carboxamide
To a solution tert-butyl (3R,4S)-3-({cyclopropyl[3-(2-methoxyethoxy)-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate (1 eq.) from the previous step in DCM (0.05 M) was added 4 M HCl in dioxane (10 eq.) and stirred at rt for 5 h. The reaction was concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 5% [2 M NH3 in MeOH] in DCM) to afford the title compound as a colorless oil. 1H NMR (acetone d-6): δ 7.28 (s, 2H), 7.20 (d, 2H), 6.84 (d, 2H), 6.62 (s, 1H), 6.48 (s, 1H), 6.4 (s, 1H), 4.47-4.25 (m, 6H), 4.05 (t, 2H), 3.71 (t, 2H), 3.56 (m, 1H), 3.38 (s, 3H), 3.33 (t, 2H), 3.28 (s, 3H), 3.25 (m, 1H), 3.11 (m, 2H), 2.76 (m, 2H), 2.55 (t, 2H), 2.34 (s, 3H), 2.32 (m, 1H), 1.78 (m, 4H), 0.77 (m, 3H), 0.49 (m, 1H). LRMS [M+H]=699.0

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-(2-methoxyethoxy)-5-(3-methoxypropyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)-ethoxy]phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OCCOC | C43H56Cl2N2O8
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 10 eq. | O1CCOCC1 | C4H8O2
solvent | DCM | 0.05 M | C(Cl)Cl | CH2Cl2
product | (3R,4S)-N-Cyclopropyl-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}-N-[3-(2-methoxyethoxy)-5-(3-methoxypropyl)benzyl]piperidine-3-carboxamide | C1(CC1)N(C(=O)[C@H]1CNCC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)CC1=CC(=CC(=C1)CCCOC)OCCOC | C38H48Cl2N2O6
